US09382356B2
(i) Synthesis of cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene)
Under a nitrogen atmosphere, 30 mL of dehydrated tetrahydrofuran was added to 1.14 g (2.65 mmol) of 2,7-diphenyl-3,6-ditert-butyl-fluorene synthesized in Synthesis Example 1-1 (ii), and the mixture was stirred. This solution was cooled in an ice bath, and 1.90 mL (2.96 mmol) of a 1.56 mol/L hexane solution n-butyllithium was added. The mixture was stirred at room temperature for 2 hours. The resulting dark red solution was cooled to −78° C. in a dry ice/methanol bath, and a solution prepared by dissolving 0.49 g (3.35 mmol) of cyclohexylfulvene, which was synthesized according to a method described in JP-A No. 2000-26490, in 20 mL of tetrahydrofuran was added dropwise over 15 minutes. Subsequently, the mixture was stirred for 19 hours while gradually warming to room temperature. 30 mL of 1 N hydrochloric acid was added to the resulting dark red solution to terminate the reaction. 100 mL of diethyl ether was added to perform liquid-liquid phase separation, and the soluble fraction was extracted. This organic layer was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and dried over magnesium sulfate. The solvent was distilled off, and the residue was recrystallized with diethylether and methanol to obtain a target product as a pale yellow powder (yield 0.98 g (64%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | 2,7-diphenyl-3,6-ditert-butyl-fluorene | 2.65 mmol, 1.14 g | C1(=CC=CC=C1)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C33H34
reactant | hexane | 1.56 mol/L | CCCCCC | C6H14
reactant | cyclohexylfulvene | 3.35 mmol, 0.49 g | C1(CCCCC1)C1=CC=CC1=C | C12H16
reactant | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | cyclohexylidene(cyclopentadienyl)(2,7-diphenyl-3,6-ditert-butylfluorene) | yield 0.98 g, 64% | C1(CCCCC1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C44H46
